Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR - likely post-polypectomy bleed
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ YOM with HLD, HTN on baby ASA daily s/p colonoscopy 2 days 
ago with 6 polyps removed transferred from ___ 
___ for LGIB. Patient reports having bloody BM starting 
this a.m. Went to OSH where he was found to have HCT dropping 
from 38 to 34. Additionally, patient had transient episode of 
hypotension 78/50 with standing while orthostatic VS were being 
taken which resolved with fluids. Denies fever, chills, nausea, 
vomiting, abdominal pain, diarrhea, recent illness, chest pain, 
shortness breath, +lightheadedness with exertion. Per GI s/o on 
ED dash he had a 2cm polyp removed from ascending colon and a 
few other smaller ones in transverse and sigmoid.  Blood in 
rectal vault, but bleeding seems to have slowed down. If 
bleeding slowing down, will hold off on ___ prep. Total IV at 
___ = 2500cc

In ER:  Triage Vitals: 97.4 | 83 | 141/79 |20 97% RA, pain 
___
Meds Given: None
Fluids given: None
Radiology Studies: None
Consults called: GI via the ED dashboard with recommendations as 
above.

REVIEW OF SYSTEMS: 10-point ROS negative except as noted above 
in HPI
 
Past Medical History:
HTN
HLD
Nocturia
Lipoma
R hip Arthralgia
Carpal tunnel of the L wrist 
Colon polyps with previous scope ___ years ago
 
Social History:
___
Family History:
His mother is alive at ___. His brother died suddenly at age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:  T 98.8  P 71  BP 121/64  RR 18 SaO2 98% on RA 
GEN: NAD, comfortable appearing. Very pleasant and funny
HEENT: ncat, anicteric, MMM
NECK:  supple
CV: s1s2 rr no m/r/g 
RESP: b/l ae no w/c/r
ABD: +bs, soft, NT, ND, no guarding or rebound  
RECTAL: Small amount maroon old blood
GU: 40 gm non-tender prostate
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: face symmetric speech fluent, ___ strength in b/l upper 
and lower extremities
PSYCH: calm, cooperative

DISCHARGE PHYSICAL EXAM:
VS: AF, 98.1, 120/66, 71, 18, 98% RA
Pain: zero out of 10.
Gen: NAD, lying in bed
HEENT: anicteric
CV: RRR, no murmur
Pulm: CTAB
Abd: soft, NT, ND, NABS
Ext: no edema
Skin: no rash
Neuro: AAOx3, fluent speech
Psych: calm, appropriate, humorous

 
Pertinent Results:
ADMISSION LABS:
___
WBC-10.4* Hgb-11.3* Hct-32.9* MCV-90 RDW-13.3 Plt ___ PTT-35.2 ___

DISCHARGE LABS:
___
WBC-7.1 Hgb-9.5* Hct-28.0* MCV-92 RDW-13.1 Plt ___
Glucose-112* UreaN-9 Creat-0.7 Na-137 K-3.8 Cl-105 HCO3-24 
AnGap-12
Calcium-9.0 Phos-3.1 Mg-1.7

HEMATOCRIT TREND:
___ 06:47PM Hct-32.9*
___ 11:58PM Hct-30.4*
___ 06:14AM Hct-23.1*
___ 08:22AM Hct-29.9*#
___ 01:25PM Hct-29.5___ 08:45PM Hct-27.9*
___ 06:38AM Hct-28.0*

IMAGING: NONE
 
Brief Hospital Course:
___ YOM with PMH HTN, HLD, colonic polyps who presents with 
hematochezia / gastrointestinal hemorrhage, s/p recent C-scope 
with polypectomy.

# Gastrointesinal bleed, likely lower
# Acute blood loss anemia
Most likely post-polypectomy bleed given recent C-scope with 
multiple polyps removed.  Was noted to have 8 point HCT drop at 
OSH and with transient hypotension and lightheadedness.  He was 
transferred to ___.  He was maintained with 2 large bore 
PIV's, monitored on telemetry and had his HCT's cycled, which 
remained stable at approximately 30.  He was seen by GI consult 
and they agreed with working dx of likely post-poylpectomy 
bleed.  The patient had his ACEi and baby ASA held.  After 
having consistently stable HCT and no further episodes of BRBPR, 
he was started on diet.  He tolerated PO diet well and had 2 
non-bloody BM's.  He did NOT receive any PRBC transfusion during 
this admission.  He is being discharged to f/u with outpatient 
providers.  HCT on day of discharge 28 (___).

CHRONIC ISSUES:
# HTN: Held ACEi on admission due to hypotension and GIB.  Can 
resume ACEi on DC.
# HLD: continue statin.  ASA held during admission for concern 
of active GIB.  Can resume ASA on discharge.

TRANSITIONAL ISSUES:
1. f/u with PCP and get HCT check
2. f/u with GI for results of polypectomies
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Vitamin E 400 UNIT PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. Glucosamine Chondroitin PLUS (gluc-condr-om3-dha-epa-fish-st) 
375-100-36-54 mg oral DAILY 
5. Lipofen (fenofibrate) 150 mg oral QPM 
6. Atorvastatin 20 mg PO QHS 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QHS 
2. Vitamin E 400 UNIT PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Lipofen (fenofibrate) 150 mg oral QPM 
5. Glucosamine Chondroitin PLUS (gluc-condr-om3-dha-epa-___-st) 
375-100-36-54 mg oral DAILY 
6. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleeding with acute blood loss anemia, likely due to 
post-polypectomy bleed.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for monitoring and evaluation 
of your bloody bowel movements.  You did not have any more 
bloody bowel movements following presentation to the hospital.  
Although your blood counts are low, they remained stable during 
your hospitalization and you did not require blood transfusion.  
We suspect your bleeding was from one of the polypectomy sites, 
but has resolved.  You were evaluated by the GI team during this 
hospitalization.
.
 
Followup Instructions:
___